US07951951B2
3.00 g (9.97 mmol) of tert-butyl [(6-chloropyridin-3-yl)methyl](3-hydroxypropyl)carbamate are dissolved in 50 ml of dichloromethane, 56.38 g (19.94 mmol) of a 15 percent strength solution of Dess-Martin periodinane in dichloromethane are added and the mixture is stirred at room temperature for 1 hour. The reaction mixture is washed with 1N aqueous sodium hydroxide solution and the aqueous phase is extracted with dichloromethane. The combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the mobile phase mixture ethyl acetate:cyclohexane (1:1) gives 2.75 g (92% of theory) of tert-butyl [(6-chloropyridin-3-yl)methyl](3-oxopropyl)carbamate.

reactant | tert-butyl [(6-chloropyridin-3-yl)methyl](3-hydroxypropyl)carbamate | 9.97 mmol, 3.00 g | ClC1=CC=C(C=N1)CN(C(OC(C)(C)C)=O)CCCO | C14H21ClN2O3
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | tert-butyl [(6-chloropyridin-3-yl)methyl](3-oxopropyl)carbamate | 2.75 g, 92% | ClC1=CC=C(C=N1)CN(C(OC(C)(C)C)=O)CCC=O | C14H19ClN2O3
